US07084158B2
1-[3-(3,5-Bistrifluoromethylphenyl)-2-propynyl]piperidine hydrochloride
An excess of dry HCl gas was passed through a solution of 1-(3,5-bistrifluoromethylphenyl)-3-piperidinoprop-1-yne (2.26 g) in dry diethyl ether (200 ml). Filtration, washing (diethyl ether) and drying of the resulting white precipitate gave 2.16 g of a fine white powder of melting point 214.5° C.

reactant | HCl | Cl | ClH
reactant | 1-(3,5-bistrifluoromethylphenyl)-3-piperidinoprop-1-yne | 2.26 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C#CCN1CCCCC1)(F)F | C16H15F6N
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-[3-(3,5-Bistrifluoromethylphenyl)-2-propynyl]piperidine hydrochloride | 2.16 g | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)C#CCN1CCCCC1)(F)F | InChI=1S/C16H15F6N.ClH/c17-15(18,19)13-9-12(10-14(11-13)16(20,21)22)5-4-8-23-6-2-1-3-7-23;/h9-11H,1-3,6-8H2;1H
